US04612317
Methyl (1RS, 3RS)-cis-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate:
(1RS, 3RS)-cis-3-Hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline (4.326 g) is dissolved in dimethylsulfoxide (20 ml), and thereto are added CS2 (2.4 ml) and triethylamine (5.6 ml). The mixture is stirred at room temperature for 30 minutes, and thereto is added dropwise methyl iodide (2.5 ml), and the mixture is stirred at room temperature for 2 hours. The reaction mixture is poured onto ice-water, and the mixture is extracted with ethyl acetate. The extract is washed with water, 5% HCl and water in order, dried over sodium sulfate and then distilled to remove the solvent. The residue is recrystallized from aqueous ethanol to give the title compound (5.5 g, 90%) as colorless needles, m.p. 164°-166° C., NMR (CDCl3, δ): 1.68 (d, J=6.8 Hz, 3H, C1 --CH3), 2.73 (s, 3H, CSSCH3); Mass m/e: 306 (M+), 258 (M+ --CH 3 SH).

reactant | (1RS, 3RS)-cis-3-Hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline | 4.326 g | OC[C@H]1N[C@H](C=2NC3=CC=CC=C3C2C1)C | C13H16N2O
reactant | CS2 | 2.4 ml | C(=S)=S | CS2
reactant | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | methyl iodide | 2.5 ml | CI | CH3I
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | Methyl (1RS, 3RS)-cis-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 5.5 g, 90% | OC[C@H]1N([C@H](C=2NC3=CC=CC=C3C2C1)C)C(=S)SC | C15H18N2OS2
